US09260418B2
6-[(6-Ethylpyridin-3-yl)methyl]-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one
To a solution of 3-[(3R,4S)-3-Hydroxytetrahydro-2H-pyran-4-yl]-6-[(6-vinylpyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one (0.040 g, 0.097 mmol) in 2 mL of methanol was added palladium on carbon (8.0 mg, 0.075 mmol). The mixture was placed under an atmosphere of hydrogen (1 atm) for 15 h and was then filtered through a pad of Celite, which was washed with MeOH. The filtrate was concentrated in vacuo to provide the title compound that gave a proton NMR spectra consistent with theory and a mass ion (ES+) of 416.1960 for [M+H]+ [Calc'd for C25H26N3O3, [M+H]+=416.1969]: 1H NMR (400 MHz, CDCl3 δ 8.82 (d, J=7.9 Hz, 1H), 8.44 (s, 1H), 8.34 (s, 1H), 7.65 (d, J=7.6 Hz, 1H), 7.60-7.52 (m, 3H), 7.37 (d, J=7.7 Hz, 1H), 7.04 (d, J=8.0 Hz, 1H), 4.78-4.71 (m, 1H), 4.29-4.25 (m, 3H), 4.23 (s, 2H), 4.06-3.99 (m, 1H), 3.55 (t, J=11.2 Hz, 1H), 3.38-3.31 (m, 1H), 2.83 (q, J=7.4 Hz, 2H), 2.26-2.19 (m, 1H), 1.97-1.94 (m, 1H), 1.24 (t, J=7.4 Hz, 3H).

reactant | 3-[(3R,4S)-3-Hydroxytetrahydro-2H-pyran-4-yl]-6-[(6-vinylpyridin-3-yl)methyl]benzo[h]quinazolin-4(3H)-one | 0.097 mmol, 0.040 g | O[C@H]1COCC[C@@H]1N1C=NC2=C3C(=C(C=C2C1=O)CC=1C=NC(=CC1)C=C)C=CC=C3 | C25H23N3O3
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium on carbon | 0.075 mmol, 8.0 mg | [Pd] | Pd
product | 6-[(6-Ethylpyridin-3-yl)methyl]-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one | C(C)C1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](COCC2)O)=O | C25H25N3O3
